US07544835B2
Production Example 122a) Ethyl 3-(3-acetylphenyl)-2-isopropoxypropanoate
2.037 g of Ethyl 2-isopropoxy-3-(3-[(trifluoromethyl)sulfonyl]oxyphenyl)-propanoate, 2.5 g of ethyl [1-(1,1,1-tributylstannyl)vinyl]ether, 500 mg of lithium chloride and 186 mg of dichlorobis(triphenylphosphine) palladium were dissolved in 15 ml of dioxane, and the mixture was stirred at 90° C. overnight under nitrogen atmosphere. The solution was cooled in ice bath, added with 1N-hydrochloric acid, and extracted with ethylacetate. The organic layer was dried over anhydrous magnesium sulfate, filtered, and the solvent was distilled off. The residue was purified by silica gel column chromatography, to give 1.041 g of the title compound in the 6:1 hexane-ethyl acetate fraction.

reactant | Ethyl 2-isopropoxy-3-(3-[(trifluoromethyl)sulfonyl]oxyphenyl)-propanoate | 2.037 g | C(C)(C)OC(C(=O)OCC)CC1=CC(=CC=C1)OS(=O)(=O)C(F)(F)F | C15H19F3O6S
reactant | lithium chloride | 500 mg | [Cl-].[Li+]
reactant | hydrochloric acid | Cl | ClH
reactant | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | Ethyl 3-(3-acetylphenyl)-2-isopropoxypropanoate | 1.041 g | C(C)(=O)C=1C=C(C=CC1)CC(C(=O)OCC)OC(C)C | C16H22O4
